US07371852B2
1,10-diphthalimido-1-pyridinyldecane (1 equiv.) and hydrazine (2 equiv.) are stirred in ethanol at reflux. The reaction mixture is cooled to room temperature and the resulting solid is filtered off. The filtrate is purified by silica gel chromatography to yield 1,10-diamino-1-pyridinyldecane.

reactant | 1,10-diphthalimido-1-pyridinyldecane | 1 equiv. | C1(C=2C(C(N1C(CCCCCCCCCN1C(C=3C(C1=O)=CC=CC3)=O)C3=NC=CC=C3)=O)=CC=CC2)=O | C31H31N3O4
reactant | hydrazine | 2 equiv. | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 1,10-diamino-1-pyridinyldecane | NC(CCCCCCCCCN)C1=NC=CC=C1 | C15H27N3
